US07678818B2
b) Preparation of (4-tert-butyl-benzyl)-(2,2-difluoro-2-phenyl-ethyl)-amine
Borane-tetrahydrofuran complex solution (1 M in THF, 1.89 mL, 1.89 mmol) was added at 0° C. to a solution of N-(4-tert-butyl-benzyl)-2,2-difluoro-2-phenyl-acetamide (200 mg, 0.63 mmol) in THF (3.2 mL), then the ice bath was removed and the solution heated to reflux over 16 h. After cooling, the reaction was quenched by careful addition of 1 M aq. hydrochloric acid solution. The reaction mixture was neutralized with aq. sodium hydroxide solution and extracted with DCM. The organic layer was washed with brine, dried (MgSO4), evaporated, and chromatographed (SiO2, heptane-ethyl acetate gradient). The fractions containing the product were concentrated, the residue dissolved in 5% ethanolic sulfuric acid solution (2 mL). This solution was heated at reflux for 2 h, neutralized with 2 M aq. sodium hydroxide solution, and extracted with ethyl acetate. The organic layer was washed with brine, dried (MgSO4), and evaporated to produce the title compound (74 mg, 39%). Light yellow oil, MS (ISP) 304.3 (M+H)+.

reactant | N-(4-tert-butyl-benzyl)-2,2-difluoro-2-phenyl-acetamide | 0.63 mmol, 200 mg | C(C)(C)(C)C1=CC=C(CNC(C(C2=CC=CC=C2)(F)F)=O)C=C1 | C19H21F2NO
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 3.2 mL | C1CCOC1 | C4H8O
product | (4-tert-butyl-benzyl)-(2,2-difluoro-2-phenyl-ethyl)-amine | 74 mg, 39% | C(C)(C)(C)C1=CC=C(CNCC(C2=CC=CC=C2)(F)F)C=C1 | C19H23F2N
